US06191124B1
1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)ethanone (Formula N-4), 1.87 g and 2,3-difluorobenzaldehyde (1.39 g) were condensed by non-critical variations in PREPARATION 15 to provide 3-(2,3-Difluorophenyl)-1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)-2-propene-1-one (Formula N-5, X=2,3-difluoro), 1.35 g, m.p. 193-195°.

reactant | 1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)ethanone | N=1C=C(N2C1SC1=C2CCCCC1)C(C)=O | C12H14N2OS
reactant | 2,3-difluorobenzaldehyde | 1.39 g | FC1=C(C=O)C=CC=C1F | C7H4F2O
product | 3-(2,3-Difluorophenyl)-1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)-2-propene-1-one | FC1=C(C=CC=C1F)C=CC(=O)C1=CN=C2SC3=C(N21)CCCCC3 | C19H16F2N2OS
